US07560558B2
Compound 425: 3-(6,7-Dimethoxy-quinolin-4-yloxy)-naphthalen-2-ol
Naphthalene-2,3-diol (1.00 g), 4-chloro-6,7-dimethoxyquinoline (691 mg), and 4-dimethylaminopyridine (1.14 g) were suspended in o-dichlorobenzene (20 ml), and the mixture was stirred at 130° C. for one hr. The reaction solution was cooled to room temperature, water was then added to the reaction solution, and the mixture was extracted with chloroform. The chloroform layer was then washed with water and saturated brine and was dried over anhydrous magnesium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by column chromatography using chloroform-methanol to give the title compound (627 mg, yield 58%).

reactant | Naphthalene-2,3-diol | 1.00 g | C1=C(C(=CC2=CC=CC=C12)O)O | C10H8O2
reactant | 4-chloro-6,7-dimethoxyquinoline | 691 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | water | O | H2O
catalyst | 4-dimethylaminopyridine | 1.14 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | o-dichlorobenzene | 20 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 3-(6,7-Dimethoxy-quinolin-4-yloxy)-naphthalen-2-ol | 627 mg, yield 58% | COC=1C=C2C(=CC=NC2=CC1OC)OC=1C(=CC2=CC=CC=C2C1)O | C21H17NO4
